US04204071
The acid chloride of 4-(3-fluorophenyl)-2-isopropyl-3-butenoic acid is reacted with m-phenoxybenzyl alcohol to yield m-phenoxybenzyl 4-(3-fluorophenyl)-2-isopropyl-3-butenoate, MS m/e 404 (M+).

reactant | 4-(3-fluorophenyl)-2-isopropyl-3-butenoic acid | FC=1C=C(C=CC1)C=CC(C(=O)O)C(C)C | C13H15FO2
reactant | m-phenoxybenzyl alcohol | O(C1=CC=CC=C1)C=1C=C(CO)C=CC1 | C13H12O2
product | m-phenoxybenzyl 4-(3-fluorophenyl)-2-isopropyl-3-butenoate | FC=1C=C(C=CC1)C=CC(C(=O)OCC1=CC(=CC=C1)OC1=CC=CC=C1)C(C)C | C26H25FO3
